US04456594
A mixture of 6.0 g (0.025 m) of the benzyl ester of L-proline, 4.7 g (0.025 m) of N-tert.-butoxycarbonyl-L-alanine, 6.75 g (0.05 m) of 1-hydroxybenzotriazole, 3.2 ml (2.82 g, 0.025 m) of N-ethylmorpholine and 65 ml of dry tetrahydrofuran was cooled, filtered and added to a mixture of 5.15 g (0.025 m) of dicyclohexylcarbodiimide and 10 ml of tetrahydrofuran. The mixture was stirred at 0° for 30 minutes, then, at 25° for 18 hours. The reaction mixture was filtered. The filtrate was evaporated to give a residue which was dissolved in ethyl acetate. The solution was washed with 1 to 10% acetic acid, water, 5% sodium bicarbonate solution and brine, then, dried over anhydrous magnesium sulfate and concentrated to leave 9.8 g of crude N-tert.-butoxycarbonyl-L-alanyl-L-proline, benzyl ester (the t-boc).

reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-tert.-butoxycarbonyl-L-alanine | 4.7 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | 1-hydroxybenzotriazole | 6.75 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethylmorpholine | 3.2 ml, 2.82 g | C(C)N1CCOCC1 | C6H13NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | N-tert.-butoxycarbonyl-L-alanyl-L-proline, benzyl ester | 9.8 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C20H28N2O5
